US04518597
5-Chloro-6-[4-(4-methyl-phenylmercapto)-butoxy]-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 5-chloro-6-hydroxy-4H-3,1-benzoxazin-2-one and 4-(4-methyl-phenylmercapto)-butylchloride.

reactant | 5-chloro-6-hydroxy-4H-3,1-benzoxazin-2-one | ClC1=C(C=CC2=C1COC(N2)=O)O | C8H6ClNO3
reactant | 4-(4-methyl-phenylmercapto)-butylchloride | CC1=CC=C(C=C1)SCCCCCl | C11H15ClS
product | 5-Chloro-6-[4-(4-methyl-phenylmercapto)-butoxy]-4H-3,1-benzoxazin-2-one | ClC1=C(C=CC2=C1COC(N2)=O)OCCCCSC2=CC=C(C=C2)C | C19H20ClNO3S
